US07517873B2
To a solution of 2.27 g (0.0061 mole) of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclohexyl-amino]-2-methyl-propanoic acid ethyl ester in 40 mL of acetic acid was added 2.0 g (0.0358 g-atom) of iron powder. The mixture was heated at 80 degrees for 2 hours, and then filtered through Celite while still hot. The filtercake was washed with 100 mL of ethyl acetate and the combined filtrate was washed successively with 100 mL of water, 100 mL of 7.4 M ammonium hydroxide, 50 mL of water and then 100 mL of brine. The aqueous layers were back washed with 100 mL of ethyl acetate and the combined ethyl acetate layers dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with ethyl acetate-dichloromethane (1:1), followed by crystallization from dichloromethane-hexanes to give 1.48 g of (rac)-2-chloro-9-cyclohexyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-18) as white needles.

reactant | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclohexyl-amino]-2-methyl-propanoic acid ethyl ester | 0.0061 mole, 2.27 g | C(C)OC(C(CN(C1CCCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C16H23ClN4O4
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 2.0 g | [Fe] | Fe
product | (rac)-2-chloro-9-cyclohexyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 1.48 g | ClC=1N=CC2=C(N(CC(C(N2)=O)C)C2CCCCC2)N1 | C14H19ClN4O
